US07176217B2
To a solution of ethyl (1S, 3S, 4R)-2-[(R)-1-phenylethyl]-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate (3.01 g, 11.1 mmol) in ethyl acetate (22 ml) was added 20 wt % Pd(OH)2 (3.89 g) and the mixture was stirred under a hydrogen atmosphere at 45° C. for 60 hours. After a filtration through Celite, the solvent was concentrated. The residue was purified by silica gel column chromatography (1%–2.5% methanol/chloroform), to give ethyl (1R, 3S, 4S)-2-azabicyclo[2.2.1]heptane-3-carboxylate (0.724 g, 39%).

reactant | ethyl (1S, 3S, 4R)-2-[(R)-1-phenylethyl]-2-azabicyclo[2.2.1]hept-5-ene-3-carboxylate | 11.1 mmol, 3.01 g | C1(=CC=CC=C1)[C@@H](C)N1[C@@H]2C=C[C@H]([C@H]1C(=O)OCC)C2 | C17H21NO2
solvent | ethyl acetate | 22 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OH)2 | 3.89 g | [OH-].[OH-].[Pd+2]
product | ethyl (1R, 3S, 4S)-2-azabicyclo[2.2.1]heptane-3-carboxylate | 0.724 g, 39% | [C@@H]12N[C@@H]([C@@H](CC1)C2)C(=O)OCC | C9H15NO2
